US07943619B2
6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for example 59, 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (143 mg, 0.4 mmol) was converted, using 4-aminotetrahydropyran instead of aminomethylcyclopropane, to the title compound (120 mg, 73%) which was obtained as a white solid after recrystallization from heptane:ethyl acetate. MS: m/e=413.3 [M+H].

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 0.4 mmol, 143 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=C(C=C1)F | C18H16FN3O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 120 mg, 73% | O1CCC(CC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=C(C=C1)F | C21H21FN4O4
